US04159979
In ethanol (50 ml) is dissolved Z-Tyr-Ile-Leu-OBut (2.09 g, 3.5 m.mols) and catalytic reduction is carried out with palladium black as the catalyst for 4 hours. The catalyst is removed by filtration and the solvent is distilled off, whereby H-Tyr-Ile-Leu-OBut is obtained.

reactant | Z-Tyr-Ile-Leu-OBut | 2.09 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C33H47N3O7
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | H-Tyr-Ile-Leu-OBut | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C25H41N3O5
